US04308384
N-[1-(3-Mercapto-4,5-dihydro-5-oxo-1,2,4-triazin-6-yl)ethyl]-butyramide
In a similar manner was prepared N-[1-(3-mercapto-4,5-dihydro-5-oxo-1,2,4-triazin-6-yl)ethyl]3-methylbutyramide (10.0 g) m.p. 195°-196° (from ethyl acetate) from ethyl 3-isovaleramido-2-oxo-butyrate, thiosemicarbazone (16.56 g).

reactant | N-[1-(3-mercapto-4,5-dihydro-5-oxo-1,2,4-triazin-6-yl)ethyl]3-methylbutyramide | 10.0 g | SC1=NN=C(C(N1)=O)C(C)NC(CC(C)C)=O | C10H16N4O2S
reactant | ethyl 3-isovaleramido-2-oxo-butyrate | C(CC(C)C)(=O)NC(C(C(=O)OCC)=O)C | C11H19NO4
product | N-[1-(3-Mercapto-4,5-dihydro-5-oxo-1,2,4-triazin-6-yl)ethyl]-butyramide | SC1=NN=C(C(N1)=O)C(C)NC(CCC)=O | C9H14N4O2S
